US06544985B2
4-[8-(Cyclopropyl-methyl-amino)-4-oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-pyridine-2-carbonitrile
The title compound was prepared from [2-[3-(2-cyano-pyridin-4-yl)-3-oxo-propionylamino]-5-(cyclopropyl-methyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester (Example M70) (215 mg, 0.42 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a yellow solid (87 mg).

reactant | [2-[3-(2-cyano-pyridin-4-yl)-3-oxo-propionylamino]-5-(cyclopropyl-methyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester | 0.42 mmol, 215 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C1CC1)C(F)(F)F)NC(CC(=O)C1=CC(=NC=C1)C#N)=O)=O | C25H26F3N5O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[8-(Cyclopropyl-methyl-amino)-4-oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-pyridine-2-carbonitrile | C1(CC1)N(C=1C(=CC2=C(N=C(CC(N2)=O)C2=CC(=NC=C2)C#N)C1)C(F)(F)F)C | C20H16F3N5O
